* SAR testbench
**********************************************************************
**        Copyright (c) 2022 Carsten Wulff Software, Norway
** *******************************************************************
** Created       : wulff at 2022-5-16
** *******************************************************************
**  The MIT License (MIT)
**
**  Permission is hereby granted, free of charge, to any person obtaining a copy
**  of this software and associated documentation files (the "Software"), to deal
**  in the Software without restriction, including without limitation the rights
**  to use, copy, modify, merge, publish, distribute, sublicense, and/or sell
**  copies of the Software, and to permit persons to whom the Software is
**  furnished to do so, subject to the following conditions:
**
**  The above copyright notice and this permission notice shall be included in all
**  copies or substantial portions of the Software.
**
**  THE SOFTWARE IS PROVIDED "AS IS", WITHOUT WARRANTY OF ANY KIND, EXPRESS OR
**  IMPLIED, INCLUDING BUT NOT LIMITED TO THE WARRANTIES OF MERCHANTABILITY,
**  FITNESS FOR A PARTICULAR PURPOSE AND NONINFRINGEMENT. IN NO EVENT SHALL THE
**  AUTHORS OR COPYRIGHT HOLDERS BE LIABLE FOR ANY CLAIM, DAMAGES OR OTHER
**  LIABILITY, WHETHER IN AN ACTION OF CONTRACT, TORT OR OTHERWISE, ARISING FROM,
**  OUT OF OR IN CONNECTION WITH THE SOFTWARE OR THE USE OR OTHER DEALINGS IN THE
**  SOFTWARE.
**
**********************************************************************


*----------------------------------------------------------------
* Include
*----------------------------------------------------------------

*ifdef Lay
.include ../build/SUN_TR_SK130NM.spice
*else
.include ../build/SUN_TR_SK130NM.spice
*endif


*----------------------------------------------------------------
* Options
*----------------------------------------------------------------
*.option TNOM=27 GMIN=1e-15 reltol=1e-6 abstol=1e-6

.option reltol=1e-6 srcsteps=1 ramptime=10n noopiter keepopinfo

*----------------------------------------------------------------
* PARAMETERS
*----------------------------------------------------------------
.param TRF = 10p

*- Analog parameters
.param AVDD = 1.5

*- 10 MHz clock frequency
.param PERIOD_CLK = 100n

*- 25% duty-cycle clock
.param PW_CLK = PERIOD_CLK/4


*- Frequency bin of the input signal
.param fbin = 5

*- number of cycles in FFT
.param nbpt = 64

*- Sampling frequency
.param fs = 1/PERIOD_CLK

*- Input frequency for coherent sampling
.param fin = fbin/nbpt*fs

.param vamp = 0.25

*----------------------------------------------------------------
* Sources
*----------------------------------------------------------------
VSS  AVSS 0 dc 0
VDD  AVDD AVSS dc {AVDD}
VREF VREF AVSS dc {AVDD}


*- Control signals
VCLK CLK 0 dc 0 pulse (0 {AVDD} 0 {TRF} {TRF} {PW_CLK} {PERIOD_CLK})

X2 CLK CK_SAMPLE AVDD AVSS IVX1_CV
X1 CK_SAMPLE  NC1 AVDD AVSS IVX1_CV

.probe v(CLK) v(CK_SAMPLE) V(EN)


.measure tran tpdr trig v(CLK) val='AVDD/2' fall=1 targ v(CK_SAMPLE) val='AVDD/2' rise=1
.measure tran tpdf trig v(CLK) val='AVDD/2' rise=1 targ v(CK_SAMPLE) val='AVDD/2' fall=1
.measure tran tpd param='(tpdr+tpdf)/2'

.control

set color0=white
set color1=black
unset askquit

tran 1n 300n 1n 5n

*plot v(CLK) v(CK_SAMPLE) v(EN)

write

quit

.endc

.end
